US07638515B2
4.12 g of 2-chloro-6-methylquinoline (J. Med. Chem. 1992, pp. 2761-2768) is added at 0° C. to a solution that consists of 15 ml of 100% nitric acid and 2 ml of 96% sulfuric acid. After 4 hours at 0° C., it is added to water, and the product is filtered off. 4.66 g of 2-chloro-6-methyl-5-nitroquinoline is obtained as a beige solid. The latter is reacted for 80 hours at 100° C. in 46 ml of glacial acetic acid and 26 ml of water. The thus obtained 6-methyl-5-nitroquinolin-2(1H)-one is filtered off from the reaction solution. The 3.45 g of product that is obtained is reacted with hydrogen under normal pressure in methanol to palladium on activated carbon to form aniline. 2.89 g of the title compound is obtained as a beige solid.

reactant | 2-chloro-6-methylquinoline | 4.12 g | ClC1=NC2=CC=C(C=C2C=C1)C | C10H8ClN
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-chloro-6-methyl-5-nitroquinoline | 4.66 g | ClC1=NC2=CC=C(C(=C2C=C1)[N+](=O)[O-])C | C10H7ClN2O2
